data/mechanisms/records/IMS8-EQ8.2f.json
{"mechanism_id": "IMS8-EQ8.2f", "species": [{"species_id": "acetyl_cation", "mapped_smiles": "[CH3:7][C:5]#[O+:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "carbon_monoxide", "mapped_smiles": "[C-:5]#[O+:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_cation", "mapped_smiles": "[CH3+:7]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["acetyl_cation"]}, {"state_id": "state_products", "species_ids": ["methyl_cation", "carbon_monoxide"]}], "steps": [{"step_id": "step_inductive_4_5", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [5, 7]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_f", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_4_5", "support_type": "textbook_proposed", "locator": {"page": 138, "equation": "8.2", "figure": null, "panel": null, "section": "Eq. 8.2, arrow 4.5, inductive (secondary: acylium -> CO + CH3+)"}, "confidence": 0.8, "curator_note": "adduct corrected to null (convention G): the species undergoing this reaction is an EVEN-ELECTRON cation (charge +1, radical_electrons 0) - a fragment/secondary-fragmentation precursor - NOT the [M]+. radical molecular ion. precursor_mz corrected to the m/z of the ion that actually undergoes the drawn reaction (convention G: the reacting species sets adduct + precursor_mz); it previously carried the neutral molecule's molecular-ion m/z, which describes the parent EI experiment rather than this step's precursor (sibling record IMS8-EQ8.1c already used the reacting-ion convention). (was 100.0883, now 43.0173 = acetyl_cation.) Secondary fragmentation of the m/z-43 acetyl cation: inductive loss of CO gives the methyl cation CH3+ (m/z 15, 5%). Book draws 0 electron-pushing arcs: Eq. 8.2 is a thermochemical fragmentation map (log k printed above each reaction arrow, heats of formation printed below each species), not a curved-arrow figure. All electron moves here are curator-inferred from the mechanism-type label printed under the reaction arrow; none is drawn on the page. ONE double-barbed arrow: the C5-C7 sigma pair collapses entirely onto C5 (the carbon of the departing carbon monoxide, drawn here as the closed-shell [C-]#[O+] form), leaving C7 as the methyl cation. (A move depositing a lone pair on C5 is reported by the arrow checker as a soft 'lone pair rather than radicals' note.)"}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 43.0173, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_15", "species_id": "methyl_cation", "step_id": "step_inductive_4_5", "observed_mz": 15.0229, "relative_intensity": 0.05, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
